US09388185B2
Step 1. 1-methyl-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperidine
To a stirred solution of 4-(4-bromophenyl)-1-methylpiperidine (from J&W PharmLab, cat#60-0498, 200 mg, 0.787 mmol) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (0.210 g, 0.826 mmol) in 1,4-dioxane (1.62 mL, 20.7 mmol) [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (27.0 mg, 33.1 μmol), potassium acetate (0.160 g, 1.63 mmol), and 1,1′-bis(diphenylphosphino)ferrocene (19.0 mg, 3.43 μmol) was added sequentially. The reaction mixture was then warmed up to 90° C. After 3 hours, the reaction mixture was quenched with saturated aq. NH4Cl, extracted with methylene chloride. The combined organic layers were dried over MgSO4, and then concentrated to give the desired product (190 mg, 80%). LCMS calculated for C18H29BNO2 (M+H)+: m/z=302.2. Found: 302.2.

reactant | 4-(4-bromophenyl)-1-methylpiperidine | 0.787 mmol, 200 mg | BrC1=CC=C(C=C1)C1CCN(CC1)C | C12H16BrN
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.826 mmol, 0.210 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | dichloromethane | 33.1 μmol, 27.0 mg | ClCCl | CH2Cl2
reactant | potassium acetate | 1.63 mmol, 0.160 g | C(C)(=O)[O-].[K+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 3.43 μmol, 19.0 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 1-methyl-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperidine | 190 mg, 80% | CN1CCC(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H28BNO2
